US05290788
5-(2-Quinolylmethoxy)indole
A mixture of 5-hydroxyindole (5.0 g), 2-chloromethylquinoline (7.0 g) and potassium carbonate (10.0 g) in N,N-dimethyl formamide (50 ml) was stirred at 80° C. for 4 hours. The cooled mixture was poured into water, and extracted with ethyl acetate. The combined organic layers were washed with water, dried over magnesium sulfate, and concentrated in vacuo. The crude product was recrystallized from ethanol to yield the title product (5.0 g), m.p. 134°-137° C.

reactant | 5-hydroxyindole | 5.0 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | 2-chloromethylquinoline | 7.0 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(2-Quinolylmethoxy)indole | 5.0 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C2C=CNC2=CC1 | C18H14N2O
